US05280026
2-(4-Fluoro-2-methylphenylamino)-4-(N-methylphenylamino)thieno-[2,3-d]pyrimidine hydrochloride
2-Chloro-4-(N-methylphenylamino)thieno[2,3-d]-pyrimidine (1.5 g, 0.00544 mol) and 4-fluoro-2-methylphenylamine (1.5 g, 0.0120 mol) were heated at 160° for 2.5 hours. Addition of methanol gave a solid which was collected by filtration and dried, (1.81 g). Recrystallization from ethanolic HCl/methanol gave the title compound as the hydrochloride salt, (1.44 g), m.p.216°-218°.

reactant | 2-Chloro-4-(N-methylphenylamino)thieno[2,3-d]-pyrimidine | 0.00544 mol, 1.5 g | ClC=1N=C(C2=C(N1)SC=C2)N(C)C2=CC=CC=C2 | C13H10ClN3S
reactant | 4-fluoro-2-methylphenylamine | 0.0120 mol, 1.5 g | FC1=CC(=C(C=C1)N)C | C7H8FN
solvent | methanol | CO | CH4O
product | 2-(4-Fluoro-2-methylphenylamino)-4-(N-methylphenylamino)thieno-[2,3-d]pyrimidine hydrochloride | Cl.FC1=CC(=C(C=C1)NC=1N=C(C2=C(N1)SC=C2)N(C)C2=CC=CC=C2)C | InChI=1S/C20H17FN4S.ClH/c1-13-12-14(21)8-9-17(13)22-20-23-18(16-10-11-26-19(16)24-20)25(2)15-6-4-3-5-7-15;/h3-12H,1-2H3,(H,22,23,24);1H
